US07705004B2
A mixture of 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (140 mg, 0.32 mmol), N-(4-aminophenyl)-N-methylacetamide (63 mg, 0.38 mmol) and trimethylsilyl chloride (TMSCl) (0.080 mL, 0.63 mmol) inn-butyl alcohol (4 mL) was heated at 116° C. overnight. More N-(4-aminophenyl)-N-methylacetamide (63 mg, 0.38 mmol) was then added. The mixture was then stirred at 116° C. for an additional 24 h. It was then purified by HPLC to give N-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide as a solid (45 mg).

reactant | 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.32 mmol, 140 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H15ClN6O2S
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.38 mmol, 63 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 0.63 mmol, 0.080 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.38 mmol, 63 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
solvent | butyl alcohol | 4 mL | C(CCC)O | C4H10O
product | N-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 45 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H26N8O3S
